US04016162
39 Grams of 3-hydrazino-6-morpholinopyridazine is added portionwise to 30 grams of benzoyl chloride. The mixture is heated at a temperature of 130°-140° C. for 1 hour. The mixture is then cooled and the residue of the reaction mixture is neutralized by the addition of aqueous sodium bicarbonate solution. The resulting aqueous mixture is then extracted with chloroform. The chloroform extract is washed with water, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The 6-morpholino-3-phenyl-s-triazolo[4,3-b]pyridazine product is obtained as a residue from the evaporation. The product is crystallized twice from isopropanol and found to melt at 195°-196° C. 15 Grams of the named product are obtained. The structure of the product is confirmed by infrared spectroscopy and by nuclear magnetic resonance analysis.

reactant | 3-hydrazino-6-morpholinopyridazine | N(N)C=1N=NC(=CC1)N1CCOCC1 | C8H13N5O
reactant | benzoyl chloride | 30 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-morpholino-3-phenyl-s-triazolo[4,3-b]pyridazine | O1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C2=CC=CC=C2 | C15H15N5O
